US07132419B2
4-Benzyloxy-benzo[a]phenazine-11-carboxylic acid (II.13)
A mixture of 4-hydroxy-benzo[a]phenazine-11-carboxylic acid (80 mg), sodium hydroxide (34 mg) and benzyl bromide (100 μL) in ethanol (2 mL) was heated to reflux for 4 hours. The reaction mixture was then cooled, diluted with ethyl acetate, washed with dilute acid, dried (MgSO4) and the solvent removed in vacuo to yield the crude title compound as a brown solid (50 mg).

reactant | 4-hydroxy-benzo[a]phenazine-11-carboxylic acid | 80 mg | OC1=CC=CC=2C1=CC=C1N=C3C=CC=C(C3=NC21)C(=O)O | C17H10N2O3
reactant | sodium hydroxide | 34 mg | [OH-].[Na+]
reactant | benzyl bromide | 100 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Benzyloxy-benzo[a]phenazine-11-carboxylic acid | 50 mg | C(C1=CC=CC=C1)OC1=CC=CC=2C1=CC=C1N=C3C=CC=C(C3=NC21)C(=O)O | C24H16N2O3
